US06518285B2
A solution of 4.4 mL (52.93 mmol) 3-pyrrolidinol in 250 mL CH2Cl2 at 0° C. was added 8.4 mL (60.26 mmol) NEt3 and 8.2 mL (51.97 mmol) benzyloxyacetyl chloride. The reaction was stirred for 3.5 h and then poured into 400 mL H2O. The reaction was extracted with CH2Cl2, dried over MgSO4, filtered and rotary evaporated to yield 12.0 g (98%) of N-(benzyloxyacetyl)-3-pyrrolidinol as a yellow oil.

reactant | 3-pyrrolidinol | 52.93 mmol, 4.4 mL | N1CC(CC1)O | C4H9NO
reactant | NEt3 | 60.26 mmol, 8.4 mL | CCN(CC)CC | C6H15N
reactant | benzyloxyacetyl chloride | 51.97 mmol, 8.2 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | H2O | 400 mL | O | H2O
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | N-(benzyloxyacetyl)-3-pyrrolidinol | 12.0 g, 98% | C(C1=CC=CC=C1)OCC(=O)N1CC(CC1)O | C13H17NO3
